US09289510B2
Synthesis of N-methacryloylglycylphenylalanylleucylglycyl-thiazolidine-2-thione (MA-GFLG-TT)
The synthesis of MA-GFLG-TT followed a published procedure [V. {hacek over (S)}ubr et al., Reactive & Functional Polymers 66 1525-1538 (2006)] with a slight modification. Under nitrogen atmosphere, N-methacryloylglycylphenylalanylleucylglycine (MA-GFLG-OH; 320 mg, 0.7 mmol), 2-mercaptothiazoline (83.5 mg, 0.7 mmol) and DMAP (85.5 mg, 0.7 mmol) were dissolved in dichloromethane (DCM) (20 mL). The solution was stirred for 5 min −10° C., EDCI (134.2 mg, 0.7 mmol) was added and the solution was stirred −10° C. for 3 h and at room temperature for another 12 h. After reaction, 50 mL DCM was added, the solution was washed with NaHCO3 aq. (0.1 M), HCl (0.1 M) and then NaCl aq. The organic layer was dried (MgSO4), solvent removed by rotary evaporation and the crude product was purified by column chromatography (silica gel 60 Å, 200-400 mesh, EtOAc: CH3OH, 15:1) and then recrystallized from DCM to give yellow powder in 51.9% yield. The structure was confirmed by 1H NMR and 13C NMR spectroscopy. 1H NMR (300 MHz, CDCl3, δ in ppm): 0.86 (m, 6 H, CH(CH3)2), 1.51 (m, 2H, CHCH2CH(CH3)2), 1.66 (m, 1H, CH(CH3)2), 1.91 (s, 3 H, CCH3), 3.03 (m, 2 H, Ph-CH2), 3.33 (t, 2 H, SCH2), 4.00 (s, 2 H, NHCH2CO), 4.54 (t, 2 H, NCH2CH2S), 4.63 (m, 1 H, NHCHCO), 4.73 (m, 1 H, NHCHCO), 4.81 (s, 2 H, NHCH2CO), 5.39 (s, 1H, C═CH2), 5.77 (s, 1H, C═CH2), 6.99 (s, 1 H, NH), 7.18 (m, 6 H, NH, Ph-H), 7.56-7.80 (m, 2 H, NH). 13C NMR (75 MHz, CDCl3, δ in ppm): 201.78, 172.6, 170.92, 170.57, 169.33, 168.99, 139.02, 136.46, 129.77, 128.80, 127.21, 121.31, 56.11, 54.89, 51.83, 46.85, 43.61, 41.81, 39.37, 29.37, 24.88, 22.86, 18.21.

reactant | N-methacryloylglycylphenylalanylleucylglycine | 0.7 mmol, 320 mg | C(C(=C)C)(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)NCC(=O)O | C23H32N4O6
reactant | 2-mercaptothiazoline | 0.7 mmol, 83.5 mg | SC=1SCCN1 | C3H5NS2
reactant | EDCI | 0.7 mmol, 134.2 mg | CCN=C=NCCCN(C)C | C8H17N3
catalyst | DMAP | 0.7 mmol, 85.5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | DCM | 50 mL | ClCCl | CH2Cl2
product | N-methacryloylglycylphenylalanylleucylglycyl-thiazolidine-2-thione | 51.9% yield | C(C(=C)C)(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)NCC(=O)N1C(SCC1)=S | C26H35N5O5S2
